US09422332B2
To a solution of (S)-2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (200 mg, 721 μmol, Eq: 1.00) and 2,6-difluoroaniline (121 mg, 101 μL, 938 μmol, Eq: 1.3) in pyridine (2 mL) at 0° C. was added dropwise phosphorus oxychloride (166 mg, 101 μL, 1.08 mmol, Eq: 1.5). The cooling bath was removed and the reaction stirred at RT overnight. The reaction mixture was concentrated in vacuo and water was added to the residue. The resulting mixture was extracted with EtOAc and the combined organic layers were washed with 0.1 M HCl, 0.1 M NaOH, and brine and concentrated in vacuo. The crude material was purified by flash chromatography to give (S)-tert-butyl 3-(2,6-difluorophenylcarbamoyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate as a colorless oil (90 mg), m/z=411 (M+Na).

reactant | (S)-2-(tert-butoxycarbonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 721 μmol, 200 mg | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)O | C15H19NO4
reactant | 2,6-difluoroaniline | 938 μmol, 101 μL, 121 mg | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | phosphorus oxychloride | 1.08 mmol, 101 μL, 166 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | (S)-tert-butyl 3-(2,6-difluorophenylcarbamoyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | 90 mg | FC1=C(C(=CC=C1)F)NC(=O)[C@H]1N(CC2=CC=CC=C2C1)C(=O)OC(C)(C)C | C21H22F2N2O3
